US08202858B2
4-((E)-2-tert-Butoxycarbonyl-vinyl)-3-methyl-benzoic Acid
Lithium hydroxide monohydrate (384 mg, 9.2 mmol) was added to a solution of 4-((E)-2-tert-butoxycarbonyl-vinyl)-3-methyl-benzoic acid methyl ester from Example E30.1 (1.27 g, 4.6 mmol) in THF (50 ml) and water (20 ml). The mixture was stirred for 20 h at room temperature then solvents were removed in vacuo. The residue was dissolved in EtOAc, washed with 1M KHSO4, water then brine, dried and concentrated in vacuo to yield the title compound (1.1 g, 92%).

reactant | Lithium hydroxide monohydrate | 9.2 mmol, 384 mg | O.[OH-].[Li+]
reactant | 4-((E)-2-tert-butoxycarbonyl-vinyl)-3-methyl-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)\C=C\C(=O)OC(C)(C)C)C)=O | C16H20O4
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 4-((E)-2-tert-Butoxycarbonyl-vinyl)-3-methyl-benzoic Acid | 1.1 g, 92% | C(C)(C)(C)OC(=O)/C=C/C1=C(C=C(C(=O)O)C=C1)C | C15H18O4
